US09371319B2
Preparation 77: 4-Amino-3-chloro-N,N-dimethylbenzenesulfonamide
A suspension of 4-acetamido-3-chlorobenzene-1-sulfonyl chloride (0.96 g, 3.58 mmol) in a dimethylamine solution (2M in MeOH, 5.37 mL, 10.7 mmol) was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure and the residue was then redissolved in MeOH (17.9 mL). A 1M HCl solution in MeOH (5.37 mL, 5.37 mmol) was added and the reaction mixture was refluxed for 6 hours before being concentrated under reduced pressure. The residue was purified via Biotage silica gel column chromatography eluting with (cyclohexane/EtOAc 80/20 to 60/40) to afford the title product as a white solid (133 mg, 16%). 1H NMR (500 MHz, CDCl3) d 2.70 (s, 6H), 4.54 (br s, 2H), 6.83 (d, J=8.5 Hz, 1H), 7.48 (dd, J=8.5, 2.1 Hz, 1H), 7.70 (d, J=2.1 Hz, 1H).

reactant | 4-acetamido-3-chlorobenzene-1-sulfonyl chloride | 3.58 mmol, 0.96 g | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl | C8H7Cl2NO3S
reactant | dimethylamine | 10.7 mmol, 2M, 5.37 mL | CNC | C2H7N
reactant | HCl | 1M | Cl | ClH
reactant | MeOH | 5.37 mmol, 5.37 mL | CO | CH4O
product | 4-Amino-3-chloro-N,N-dimethylbenzenesulfonamide | 133 mg, 16% | NC1=C(C=C(C=C1)S(=O)(=O)N(C)C)Cl | C8H11ClN2O2S
